US06486184B2
In a dry flask under argon was placed a solution of (3,4-dichloro-phenyl)-(4-toluenesulfonylhydrazono)-acetic acid methyl ester (1.45 g, 3.61 mmol) in dichloromethane (20 mL) containing triethylamine (0.55 mL, 3.97 mmol) at 25° C. The bright yellow solution was then stirred at 25° C. for 1 h, then the solvent was removed in vacuo to yield a bright yellow solid. The product was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 7/1/0.5 hexanes/dichloromethane/methanol) to furnish diazo-(3,4-dichloro-phenyl)-acetic acid methyl ester (814 mg, 92% yield) as a bright yellowish orange solid: EI-HRMS m/e calcd for C9H6Cl2N2O2 (M+) 243.9806, found 243.9800.

reactant | (3,4-dichloro-phenyl)-(4-toluenesulfonylhydrazono)-acetic acid methyl ester | 3.61 mmol, 1.45 g | COC(C(=NNS(=O)(=O)C1=CC=C(C=C1)C)C1=CC(=C(C=C1)Cl)Cl)=O | C16H14Cl2N2O4S
reactant | triethylamine | 3.97 mmol, 0.55 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | diazo-(3,4-dichloro-phenyl)-acetic acid methyl ester | 814 mg, 92% yield | COC(C(C1=CC(=C(C=C1)Cl)Cl)=[N+]=[N-])=O | C9H6Cl2N2O2
